Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Ceclor
 
Attending: ___.
 
Chief Complaint:
thunderclap headaches for one week duration
 
Major Surgical or Invasive Procedure:
___ guided lumbar puncture 

 
History of Present Illness:
The patient is a ___ year old woman with no hx of headache here 
with
episodic thunderclap headache occurring at least daily since
___. 

Pt notes that she was in normal state of health on ___ when
she had sudden onset ___ pain in the back of her head when on
the toilet and reaching to wipe herself. +nausea, +diaphoresis.
She took motrin as well as Excedrin and lay down. Within 2 hours
her headache had resolved and aside from mild lightheadedness 
she
was back to baseline. 

Headache is described as - posterior head left more than right
with aching neck in between episodes. +photophobia and
phonophobia. No vertigo. +lightheadedness.  

That night she had trouble sleeping which is unusual but there
was no pain involved in preventing her from sleeping. 

___ AM, she went to kneel on the couch, and she had another
sudden onset sharp headache as described above. She took 800mg
Ibuprofen with minimal relief. She presented to ___ where
they did NCHCT negative for bleed. After several hours, her
headache resolved. She was given IV Reglan which had minimal
benefit. LP was recommended but she refused as she had been in
the ED for so long and was feeling better. 

___ ___, she was in the bathroom urinating and again suddenly
had her severe headache. She took Reglan, ibuprofen, Excedrin,
and returned to ___ where LP was attempted twice and 
failed.
This was very uncomfortable and traumatic for her and she now
refuses LP in the ED. Again after several hours, her headache
improved and she was discharged with 10 pills each of Reglan and
Fioricet. 

___ she had one sudden onset headache lasting hours. 

___ AM, she had a sudden onset headache when just lying in
bed. She took Reglan, Benadryl, fioricet which barely helped. 
She
returned to the ED where they got MRI Brain which reportedly
showed sinus infection and she was prescribed augmentin on
discharge. She was also given Percocet and ibuprofen was
recommended. 

She had severe sudden onset headaches lasting hours again on
___, ___ AM, and ___ - for each of these she
took many PO meds including combinations of reglan, fioricet,
ibuprofen, percocet, Benadryl. She used all of her reglan and
fioricet that was prescribed. 

Today, ___ at 12PM, she had another sudden onset severe
headache that has not resolved since onset despite reglan,
percocet and toradol. She presented to ___ initially where
they obtained CTA H and N concerning for possible vasospasm vs
vasculitis and transferred her here for further management. CT
was negative for bleed. 

As noted above, while several episodes occurred with bending
slightly, others occurred at rest without any movement. There is
no positional component to her headache. No transient 
obscuration
of vision. No diplopia. No pulsatile tinnitus. No visual
symptoms. 
She does not feel that moving her neck brings on her headache.
She denies any recent trauma or car accident prior to onset of
headaches.

She does use marijuana daily and has not recently increased 
this.

When seen at 10PM, she still has a severe headache with nausea. 

She denies recent prednisone use but has used it previously. 

On neurologic review of systems, the patient denies difficulty
with producing or comprehending speech. Denies loss of vision,
blurred vision, diplopia, vertigo, tinnitus, hearing difficulty,
dysarthria, or dysphagia. Denies focal muscle weakness, 
numbness,
parasthesia. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, +Diarrhea from augmentin. She
denies recent fever or chills.  No night sweats or recent weight
loss or gain. Denies cough, shortness of breath.  Denies chest
pain or tightness, palpitations.  Denies nausea, vomiting, 
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
None
 
Social History:
___
Family History:
Grandmother - brain tumor                  

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 

Vitals: 97.6F, HR 48-59, BP 152/60, RR 14, 99% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. With palpation of her b/l trapezius muscles are 
tight
but not painful to palpation. There is mild tenderness on
palpation of b/l occipital notches but this is not reproduce her
pain. 
Neck: Supple, No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus - several beats of end gaze nystagmus seen but likely
pseudonystagmus as pt trying to blink when seen, not present on
repetition. VFF to confrontation. Fundoscopic exam revealed no
papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, proprioception throughout.
No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Plantar response was flexor bilaterally. No ankle clonus.
+pectoral jerks b/l. +crossed adductors b/l. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

==================================================

DISCHARGE

Vitals: Temp 98.5, BP 136/64, HR 56, RR 18, O2 Sat 100% RA
General: Awake, cooperative, NAD
HEENT: NC/AT, no TTP
Neck: Supple, no TTP
Pulmonary: Breathing comfortably
Cardiac: Well perfused
Extremities: No ___ edema.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty.
-Cranial Nerves:
II, III, IV, VI:  PERRL. EOMI without nystagmus
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl IP  Ham TA 
L  5    ___   ___   5      
R  5    ___   ___   5   

-Sensory: No deficits to light touch, proprioception throughout.
No extinction to DSS.

-Coordination: No intention tremor, no dysmetria on FNF.

Discharge  Physical Exam:  

 
Pertinent Results:
Hematology 
 COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 05:50AM    14.0* 4.25 12.2 37.7 89 28.7 32.4 13.2 
42.8 334 Import Result 

 
___ 09:05AM    17.0* 3.88* 11.2 34.4 89 28.9 32.6 13.2 
42.7 296 Import Result 

 
___ 09:20PM    16.5* 4.18 12.1 37.3 89 28.9 32.4 13.2 
42.6 358 Import Result 

 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 09:20PM    78.5*   16.5* 4.0* 0.3* 0.2     0.5 
12.95* 2.72 0.66 0.05 0.04 Import Result 

 
 BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 05:50AM        334   Import Result 

 
___ 01:00PM    12.7* 31.3   1.2* Import Result 

 
___ 09:05AM        296   Import Result 

 
___ 09:05AM    12.8* 29.8   1.2* Import Result 

 
___ 09:20PM        358   Import Result 

 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 05:50AM    ___ 139 3.9 ___ Import Result 


 
___ 09:05AM    ___ 137 3.6 ___ Import Result 


 
___ 09:20PM    103* 16 0.7 137 4.4 ___ Import 
Result 

 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 09:20PM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 09:05AM    15 10 201   71   0.5   Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
___ 05:50AM          8.7 2.4* 2.1     Import Result 

 
___ 09:00PM    6.8               Import Result 

 
___ 09:05AM      3.5             Import Result 

 
___ 09:20PM          8.4 3.4 1.8     Import Result 

 
 HEMATOLOGIC Cryoglb 
___ 09:00PM    PND Import Result 

 
 HEPATITIS HBsAg HBsAb HBcAb 
___ 09:00PM    Negative Positive Negative Import Result 

 
 AUTOANTIBODIES ANCA 
___ 09:05AM    PND Import Result 

 
 IMMUNOLOGY ___ CRP 
___ 09:05AM      PND   Import Result 

 
___ 09:05AM    <10     Import Result 

 
___ 09:20PM        12.1* Import Result 

 
 PROTEIN AND IMMUNOELECTROPHORESIS PEP 
___ 09:00PM    PND Import Result 

 
 COMPLEMENT C3 C4 
___ 09:00PM    137 30 Import Result 

 
 TOXICOLOGY, SERUM AND OTHER DRUGS ASA Ethanol Acetmnp Bnzodzp 
Barbitr Tricycl 
___ 09:20PM    NEG NEG NEG NEG NEG NEG Import Result 

 
 HEPATITIS C SEROLOGY HCV Ab 
___ 09:00PM    Negative Import Result 

 
 LAB USE ONLY 
___ 05:50AM    Import Result 

 
___ 09:00PM    Import Result 

 
___ 09:05AM    Import Result 

 
___ 09:20PM    Import Result 

 
 
 

Miscellaneous 
  SED RATE 
___ 09:05AM    Test  Import Result 
 
PROCEDURES: 
 
___: 
___ Lumbar Puncture 
1. Lumbar puncture at L3-L4 without complication. 
2. Elevated opening pressure of 38 cm CSF. 
I, Dr. ___ supervised the trainee during the key 
components of the above procedure and I reviewed and agree with 
the trainee's findings and dictation. 

IMAGING: 
MRI PENDING 

 
Brief Hospital Course:
Ms. ___ is an otherwise healthy ___ year old obese woman who 
was transferred from ___ after a one week history of 
progressively worsening daily "thunderclap" headaches, now 
suspicious for vasospasm vs. vasculitis. She was started on 
Verapamil prior to transfer.

She underwent LP ___ guided and was found to have in an 
increased opening pressure of 38cm on LP in the prone position. 
CSF studies did not show any evidence for subarachnoid 
hemorrhage. All of her serum and CSF lab studies came back 
negative, without any signs of infection, inflammatory processes 
or malignancy. Ophthalmology consult revealed no papilledema. 
MRI brain without contrast did not show a mass, ischemic 
infarct, or intracranial hemorrhage. CTA brain from the OSH 
showed mild irregularity of the right M1 segment of the MCA, and 
moderate stenosis of the M2 branch of the right MCA - this 
imaging plus her history suggested that the likely diagnosis is 
reversible cerebral vasoconstriction syndrome. CTA brain did not 
show any evidence of aneurysm. 

Ms. ___ did not experience further episodes of thunderclap 
headaches while inpatient after the Verapamil was started. She 
did although occasionally endorse milder pulsing headaches, in 
the occipital and temporal regions.

MRI w/thin cuts of orbits, MRA and MRV brain studies were 
ordered to assess for other possibilities including idiopathic 
intracranial hypertension (IIH) and cerebral venous sinus 
thrombosis. IIH was thought to be less likely. Her history and 
exam were not suggestive of IIH. Her headaches were actually 
improved in the lying down position. Also, she did not have 
papilledema on ophtho exam. Although she was found to have an 
increased opening pressure of 38cm on LP in the prone position, 
it is known that measuring CSF opening pressure in the prone 
position may lead to artificially elevated results. After 
waiting over a day for the study, Ms. ___ decided to leave 
and have the imaging as an outpatient, which is scheduled for 
___.

Patient advised to continue Verapamil for 3 months and to 
follow-up in clinic with Dr. ___. Patient also advised to 
make lifestyle modifications such as decreasing her marijuana 
use since it is a known trigger of cerebral vasospasm. 

Transitions of care issues: 

1. Patient was not able to wait for MRI in the hospital and is 
scheduled for outpatient MRI, MRA, and MRV for ___. The patient 
has further follow-up with Dr. ___ attending in 3 
months. 

2. Patient discharged on verapamil PO 80 mg Q8 for a duration of 
3 months. 

3. Patient advised to follow up with ophthalmologist if she 
develops blurry vision or difficulty with vision. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Verapamil 80 mg PO Q8H 
RX *verapamil 80 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*90 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cerebral vasospasm /RCVS causing thunderclap headache 

 
Discharge Condition:
Condition: Stable
Mental status: intact, no confusion, patient is alert, language 
intact 
Ambulates independently 

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted due to symptoms of severe headache that was 
concerning for a number of etiologies including vasospasm. 
Imaging done at the outside hospital showed a small occlusion of 
one of your brain arteries, however this was not an optimal 
study. Repeat MRI of your arteries, brain, and veins was offered 
but refused due to wait time and resolution of headache. 
 
You were started on a new medication verapamil which helps with 
this particular type of headache and can continue this until you 
are followed up with neurology. 

Risk factors for vasospasm includes: 
-Daily Marijuana Use. 

We strongly suggest that you stop using marijuana.

Please do not hesitate to contact Neurology sooner than your 
appointment if you have new or worsening symptoms. 
 
Followup Instructions:
___